US07601714B2
Triphenylphosphine (172 mg, 0.65 mmol) was added to the solution of 5-azidomethyl-quinoline (109 mg, 0.59 mmol) in THF (3 mL) at 0° C. After 5 min of stirring, the reaction mixture was warmed to room temperature and stirred at that temperature 16 h. The reaction mixture was diluted with ammonium hydroxide (0.55 mL) and stirred for 3 h. The mixture was then treated with 2M NaOH (0.8 mL) and stirred for another 1 h. The solution was diluted with ethyl acetate and the organic phase was separated, dried over Na2SO4, concentrated. The resulting residue was purified by silica gel prep TLC using 10:1:0.3 CH2Cl2:MeOH:Et3N as an eluant to afford 105 mg of quinolin-5-yl-methylamine as a colorless solid.

reactant | Triphenylphosphine | 0.65 mmol, 172 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-azidomethyl-quinoline | 0.59 mmol, 109 mg | N(=[N+]=[N-])CC1=C2C=CC=NC2=CC=C1 | C10H8N4
reactant | NaOH | 2M, 0.8 mL | [OH-].[Na+]
reactant | ammonium hydroxide | 0.55 mL | [OH-].[NH4+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | quinolin-5-yl-methylamine | 105 mg | N1=CC=CC2=C(C=CC=C12)NC | C10H10N2
